US05578610
To 350 mL of methanol in a 1 L round bottom flask equipped with a mechanical stirrer was added 5.3 g (9.8 mmol) of methyl 4-[4-[4-(bis(4-methylphenyl)hydroxymethyl)-1-piperidinyl]-1-hydroxybutyl]-α,α-dimethylphenylacetate, prepared in accordance with Example 9, 5.1 g (0.13 mol) of solid sodium hydroxide, and 100 mL of water. The mixture was heated to reflux for 3 hr. After cooling, the methanol was removed in vacuo, and 6N hydrochloric acid was added dropwise until the solution was no longer basic (pH=7). The solution was extracted three times with ethyl acetate. The organic layers were combined and a white crystalline solid precipitated out of solution. The solid was washed with ether to provide 1.8 g (34%) of 4-[4-[4-(bis(4-methylphenyl)hydroxymethyl)-1-piperidinyl]-1-hydroxybutyl]-α,α-dimethylphenylacetic acid, as the dihydrate, mp 208-215 C. Analysis. Calcd. for C34H43NO4 --2(H2O): C, 72.18; H, 8.37; N, 2.47. Found: C, 72.02; H, 8.36; N, 2.41.

reactant | methanol | 350 mL | CO | CH4O
reactant | methyl 4-[4-[4-(bis(4-methylphenyl)hydroxymethyl)-1-piperidinyl]-1-hydroxybutyl]-α,α-dimethylphenylacetate | 9.8 mmol, 5.3 g | CC1=CC=C(C=C1)C(C1CCN(CC1)CCCC(O)C1=CC=C(C=C1)C(C(=O)OC)(C)C)(O)C1=CC=C(C=C1)C | C35H45NO4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 100 mL | O | H2O
product | 4-[4-[4-(bis(4-methylphenyl)hydroxymethyl)-1-piperidinyl]-1-hydroxybutyl]-α,α-dimethylphenylacetic acid | 1.8 g, 34% | CC1=CC=C(C=C1)C(C1CCN(CC1)CCCC(O)C1=CC=C(C=C1)C(C(=O)O)(C)C)(O)C1=CC=C(C=C1)C | C34H43NO4
